US08183279B2
10 ml of THF, 200 mg of 5% Pd/C (50.5% of H2O) and 15.884 ml (0.708 mmol) of hydrogen are added to 200 mg (0.354 mmol) of 2,4-bisbenzyloxy-N-butyl-5-(5-hydroxy-1,3-dihydroisoindole-2-carbonyl)-N-methylbenzamide in an autoclave, and the mixture is stirred for 20 h at 22° C. Filtration, subsequent evaporation and chromatography of the residue gives 75 mg (55.1%) of N-butyl-2,4-dihydroxy-5-(5-hydroxy-1,3-dihydroisoindole-2-carbonyl)-N-methylbenzamide “A1”);

reactant | hydrogen | 0.708 mmol, 15.884 ml | [H][H] | H2
reactant | 2,4-bisbenzyloxy-N-butyl-5-(5-hydroxy-1,3-dihydroisoindole-2-carbonyl)-N-methylbenzamide | 0.354 mmol, 200 mg | C(C1=CC=CC=C1)OC1=C(C(=O)N(C)CCCC)C=C(C(=C1)OCC1=CC=CC=C1)C(=O)N1CC2=CC=C(C=C2C1)O | C35H36N2O5
catalyst | Pd/C | 200 mg | [Pd] | Pd
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-butyl-2,4-dihydroxy-5-(5-hydroxy-1,3-dihydroisoindole-2-carbonyl)-N-methylbenzamide | 75 mg, 55.1% | C(CCC)N(C(C1=C(C=C(C(=C1)C(=O)N1CC2=CC=C(C=C2C1)O)O)O)=O)C | C21H24N2O5
